US07429565B2
6-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-2-phosphono-hex-4-enoic acid methyl ester
To a solution of 2-(dimethoxy-phosphoryl)-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid methyl ester (30 mg, 0.055 mmol) in acetonitrile (2 mL) was added trimethylsilyl bromide (0.18 mL). After 10 minutes, 2,6-lutidine (0.16 mL) was added to the reaction at ambient temperature. The reaction was allowed to proceed for 16 hours before it was concentrated to dryness. The residue was resuspended in a solution of DMF: H2O (8:2, 1 mL) and purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 18 mg of the product as a white powder. 1H NMR (300 MHz, CD3OD) δ 1.81 (s, 3H), 2.16 (s, 3H), 2.40-2.49 (m, 1H), 2.63 (dt, 1H, J=6, 17 Hz), 3.07 (ddd, 1H, J=4, 12, 23 Hz), 3.38 (3, 2H, J=7 Hz), 3.52 (s, 3H), 3.77 (s, 3H), 5.25 (s, 2H), 5.28 (t, 1H, J=7 Hz) ppm; 31p (121.4 MHz, CDCl3) δ 19.5 ppm; MS (m/z) 415.2 [M+H]+, 437.2 [M+Na]+.

reactant | 2-(dimethoxy-phosphoryl)-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid methyl ester | 0.055 mmol, 30 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)P(=O)(OC)OC)=O | C25H39O9PSi
reactant | trimethylsilyl bromide | 0.18 mL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 0.16 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 6-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-2-phosphono-hex-4-enoic acid methyl ester | 18 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)P(=O)(O)O)=O | C18H23O9P
